US08466186B2
(d) N-(4-Chloro-3-fluoro-5-nitro-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide
The sub-title compound was prepared in analogy to the procedure in Example 94, step (c) using 4-chloro-3-fluoro-5-nitro-benzylamine (761 mg; 3.72 mmol), 1-trifluoromethyl-cyclopropanecarboxylic acid (573 mg; 3.72 mmol), HBTU (1.41 g; 3.72 mmol), TEA (753 mg; 7.44 mmol) and DMF (10 mL).

reactant | 4-chloro-3-fluoro-5-nitro-benzylamine | 3.72 mmol, 761 mg | ClC1=C(C=C(CN)C=C1[N+](=O)[O-])F | C7H6ClFN2O2
reactant | 1-trifluoromethyl-cyclopropanecarboxylic acid | 3.72 mmol, 573 mg | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | HBTU | 3.72 mmol, 1.41 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-Chloro-3-fluoro-5-nitro-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1[N+](=O)[O-])F | C12H9ClF4N2O3
